US07947834B2
5.16 g of methyl 3-amino-4-hydroxybenzoate are dissolved in 100 ml of dimethylformamide in a 500 ml round-bottomed flask. 17.06 g of potassium carbonate and then 7.98 ml of dibromoethane are subsequently added. The reaction medium is heated at 110° C. with stirring for five hours. After evaporating the solvent, water and ethyl acetate are added. The aqueous phase is extracted three times with ethyl acetate. The organic phases are combined and then dried over magnesium sulfate and the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel with a heptane/ethyl acetate 6/4 mixture. 3.61 g of methyl 3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate are obtained.

reactant | methyl 3-amino-4-hydroxybenzoate | 5.16 g | NC=1C=C(C(=O)OC)C=CC1O | C8H9NO3
reactant | potassium carbonate | 17.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibromoethane | 7.98 ml | BrC(C)Br | C2H4Br2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl 3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 3.61 g | O1CCNC2=C1C=CC(=C2)C(=O)OC | C10H11NO3
